US06831087B2
2-Pyridin-4-yl-1,2,3,4-tetrahydro-isoquinoline
A mixture of 4-chloro-pyridine 1:1 hydrochloride (24.5 g, 163 mmol) and 1,2,3,4-tetrahydro-isoquinoline (65.3 g, 490 mmol) was slowly heated to 150° C. After 30 min the reaction mixture was cooled to rt, H2O (700 ml) and 2N NaOH (82 ml) was added followed by extraction with AcOEt (5 times 300 ml). The combined organic phases were dried (Na2SO4), and the solvent was evaporated. After trituration with pentane and recrystallization the title compound (30.2 g, 88%) was obtained as a light brown crystalline material. Mp. 95-96° C. (AcOEt), MS: m/e=210 (M+).

reactant | 4-chloro-pyridine | ClC1=CC=NC=C1 | C5H4ClN
reactant | hydrochloride | 163 mmol, 24.5 g | Cl | ClH
reactant | 1,2,3,4-tetrahydro-isoquinoline | 490 mmol, 65.3 g | C1NCCC2=CC=CC=C12 | C9H11N
reactant | NaOH | 2N, 82 ml | [OH-].[Na+]
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | H2O | 700 ml | O | H2O
product | 2-Pyridin-4-yl-1,2,3,4-tetrahydro-isoquinoline | N1=CC=C(C=C1)N1CC2=CC=CC=C2CC1 | C14H14N2
